US04196141
44 Grams of p-xylylene-bis-(methylphosphinic acid) are heated to 240° C., and phosgene is slowly introduced, while stirring. In the course of 1.5 hours the temperature is reduced to 210° C. Subsequently nitrogen is passed through the mixture at this temperature. 41 Grams of p-xylylene-bis-(methylphosphinic acid)-anhydride are obtained which have a solidification point of from about 165° to 175° C.

reactant | p-xylylene-bis-(methylphosphinic acid) | C1(=CC=C(C=C1)CP(O)(=O)C)CP(O)(=O)C | C10H16O4P2
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
product | p-xylylene-bis-(methylphosphinic acid)-anhydride | yield is 100% | C12=CC=C(C=C1)CP(=O)(C)OP(=O)(C2)C | C10H14O3P2
